US07268231B2
To a suspension of 2-[2-(3-fluoro-phenyl)-ethylamino]-thiazol-4-one (38.1 mg, 0.16 mmol), and 1,5-naphthyridine-6-carboxaldehyde (31.6 mg, 0.2 mmol) in toluene (1 mL) in a microwave tube were added benzoic acid (2.0 mg, 0.02 mmol) and piperidine (1.7 uM, 0.02 mmol). The reaction mixture was heated to 130° C. with microwave for 10 min., then cooled to r.t. and diluted with toluene. The solid was collected by filtration and washed with toluene, MeOH and ether to give 2-[2-(3-fluoro-phenyl)-ethylamino]-5-[1,5]naphthyridin-2-ylmethylene-thiazol-4-one as a brown solid (22.3 mg, 36.9%). HR-ES (+) m/e calcd. for C20H15FN4OS: (M+H)+ 379.1024. Found: 379.1024.

reactant | 2-[2-(3-fluoro-phenyl)-ethylamino]-thiazol-4-one | 0.16 mmol, 38.1 mg | FC=1C=C(C=CC1)CCNC=1SCC(N1)=O | C11H11FN2OS
reactant | 1,5-naphthyridine-6-carboxaldehyde | 0.2 mmol, 31.6 mg | N1=CC=CC2=NC(=CC=C12)C=O | C9H6N2O
reactant | benzoic acid | 0.02 mmol, 2.0 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | piperidine | 0.02 mmol, 1.7 uM | N1CCCCC1 | C5H11N
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(3-fluoro-phenyl)-ethylamino]-5-[1,5]naphthyridin-2-ylmethylene-thiazol-4-one | 22.3 mg, 36.9% | FC=1C=C(C=CC1)CCNC=1SC(C(N1)=O)=CC1=NC2=CC=CN=C2C=C1 | C20H15FN4OS
